US07547710B2
A mixture of tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.7 g, 6.3 mmol), ethyl 5-bromopentanoate (1.4 g, 7.0 mmol), potassium carbonate (0.97 g, 7.0 mmol) and N,N-dimethylformamide (30 ml) was stirred at 50° C. for 3 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give ethyl 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoate (2.2 g, yield 67%) as crystals.

reactant | tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 6.3 mmol, 2.7 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H32N2O3
reactant | ethyl 5-bromopentanoate | 7.0 mmol, 1.4 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 7.0 mmol, 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoate | 2.2 g, yield 67% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCCC(=O)OCC)CC(C)C | C33H44N2O5
